US06664395B2
To a stirred, cold (−78° C.) solution of 3-isopropyl-3H-benzotriazole-5-carboxylic acid methoxy-methyl-amide (4.26 g) in 20 mL of toluene was added drop-wise 17.2 mL of DIBAL in toluene (1 M). The mixture was stirred for 1 hour at −78° C. before warming to 0° C. The reaction was quenched with aqueous 1 N hydrochloric acid, diluted with water and extracted with ethyl acetate (3 times). The combined extracts were washed with water, brine, dried (sodium sulfate), filtered, and the filtrate was concentrated to give a yellow oil. This oil was purified by flash chromatography (eluting with 2:1 hexanes/ethyl acetate) to give 2.24 g of 3-isopropyl-3H-benzotriazole-5-carbaldehyde as a yellow oil which crystallized upon standing; MS 190 M+1.

reactant | 3-isopropyl-3H-benzotriazole-5-carboxylic acid methoxy-methyl-amide | 4.26 g | CON(C(=O)C1=CC2=C(N=NN2C(C)C)C=C1)C | C12H16N4O2
reactant | DIBAL | 17.2 mL | CC(C)C[AlH]CC(C)C
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1 M | C1(=CC=CC=C1)C | C7H8
product | 3-isopropyl-3H-benzotriazole-5-carbaldehyde | 2.24 g | C(C)(C)N1N=NC2=C1C=C(C=C2)C=O | C10H11N3O
